US06331539B1
According to the general method of Example 5, 1-(4-aminobutyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine and 4-fluorobenzenesulfonyl chloride were combined. Recrystallization from 4:1 n-propyl acetate/methanol provided N1-{4-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-4-fluoro-1-benzenesulfonamide as a white crystalline solid, m.p. 191.0-193.0° C. 1H NMR (300 MHz, DMSO-d6) δ 7.86-7.81 (m, 2H), 7.67 (broad s, 1H), 7.45-7.39 (m, 2H), 5.65 (broad s, 2H), 4.15 (m, 2H), 3.76 (t, J=6.7 Hz, 2H), 3.27 (s, 3H), 3.00 (t, J=6.7 Hz, 2H), 2.90 (broad s, 2H), 2.78 (m, 2H), 2.65 (broad s, 2H), 1.75 (broad s, 4H), 1.61 (m, 2H), 1.43 (m, 2H); MS (CI) m/e 476 (M+H). Analysis: Calculated for C23H30FN5O3S: % C, 58.09; % H, 6.36; % N, 14.73; Found: % C, 58.37; % H, 6.35; %N, 14.60.

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C17H27N5O
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N1-{4-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-4-fluoro-1-benzenesulfonamide | NC1=NC=2CCCCC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=C(C=C2)F)CCOC | C23H30FN5O3S
